US04294831
A solution of 6-chloro-9-(2-benzoyloxyethoxymethyl) purine (50 g) and ammonia (31 g) in methanol (120 ml) was heated in a bomb at 95° C. for 18 hours. The reaction mixture was removed from the bomb and the solvent evaporated under reduced pressure at 50° C. The resulting solid was triturated first with water and then, after drying, with chloroform. The solid, 9-(2-hydroxyethoxymethyl)adenine, was retained, and the aqueous triturate was extracted several times with chloroform. The aqueous extracts were treated with a strongly basic ion exchange resin and then evaporated to dryness under reduced pressure. The remaining solid was combined with that from the trituration step, and recrystallized from isopropanol to give 22 g (70% of theoretical) of white 9-(2-hydroxyethoxymethyl) adenine, m.p. 199.5°-200° C.

reactant | 6-chloro-9-(2-benzoyloxyethoxymethyl) purine | 50 g | ClC1=C2N=CN(C2=NC=N1)COCCOC(C1=CC=CC=C1)=O | C15H13ClN4O3
reactant | ammonia | 31 g | N | H3N
solvent | methanol | 120 ml | CO | CH4O
product | 9-(2-hydroxyethoxymethyl) adenine | 22 g, 70% | OCCOCN1C2=NC=NC(=C2N=C1)N | C8H11N5O2
